US05753664
1-[4-(4-Chlorobenzoyl)benzyl]-4-chloro-6-methylpyrrolo [2,3-d]pyridazin-7(6H)-one
In DMF (200 ml) was dissolved 1-[4-(4-chlorobenzoyl)benzyl]-4-chloropyrrolo [2,3-d]pyridazin-7(6H)-one (830 mg) followed by addition of potassium carbonate (2.11 g). Then, methyl iodide (0.13 ml) was added and the mixture was stirred at room temperature for 95 hours. This reaction mixture was diluted with water (50 ml) and extracted with ethyl acetate (200 ml). The organic layer was washed with water (100 ml) 3 times and further with saturated aqueous NaCl solution (100 ml) and dried over anhydrous magnesium sulfate. After the desiccant was filtered off, the solvent was distilled off under reduced pressure and the resulting crystals were rinsed with ethyl acetate to provide 742 mg (yield 84%) of the title compound.

reactant | 1-[4-(4-chlorobenzoyl)benzyl]-4-chloropyrrolo [2,3-d]pyridazin-7(6H)-one | 830 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3C(NN=C4Cl)=O)C=C2)C=C1 | C20H13Cl2N3O2
reactant | potassium carbonate | 2.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.13 ml | CI | CH3I
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1-[4-(4-Chlorobenzoyl)benzyl]-4-chloro-6-methylpyrrolo [2,3-d]pyridazin-7(6H)-one | 742 mg, yield 84% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3C(N(N=C4Cl)C)=O)C=C2)C=C1 | C21H15Cl2N3O2
